US04018796
20 g of dimethylformamide are added dropwise to 40 g of phosphorus oxychloride at 20°-50° C. The mixture is stirred for 45 minutes at 50° C whilst excluding moisture. A suspension of 42 g of 7-diethylamino-coumarin in 50 g of dimethylformamide is then added, the mixture is warmed to 60° C for 2 hours and poured out onto 400 g of ice water, and the whole is stirred for 2 hours. The crystalline precipitate is filtered off, thoroughly washed with water and dried in vacuo at 70° C. 41 g of 7-diethylamino-coumarin-3-aldehyde are obtained.

reactant | phosphorus oxychloride | 40 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-diethylamino-coumarin | 42 g | C(C)N(C1=CC=C2C=CC(OC2=C1)=O)CC | C13H15NO2
reactant | dimethylformamide | 50 g | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 g | CN(C=O)C | C3H7NO
product | 7-diethylamino-coumarin-3-aldehyde | 41 g | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)C=O)CC | C14H15NO3
